US04816587
Preparation of 2-chlorolysergol (2-chloro-8-hydroxymethyl-6-methyl-9-ergolene)
1 g of lysergol is halogenated according to the process of Example 1, except that 1.7 g of trimethylchlorosilane are used instead of trimethylbromosilane. The product is isolated as described in Example 1. The yield of the title compound is 0.73 g (0.0025347 mole, 64.4%), m.p.: 207° C.

reactant | lysergol | 1 g | OC[C@H]1CN(C)[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C16H18N2O
reactant | trimethylchlorosilane | 1.7 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | trimethylbromosilane | C[Si](Br)(C)C | C3H9BrSi
product | 2-chlorolysergol | ClC1=C2C[C@H]3N(C[C@H](CO)C=C3C=3C=CC=C(N1)C32)C | C16H17ClN2O
